US07595312B2
1 h (S)-3-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-4-oxo-butanoic acid
5.75 g (38.4 mmol) of NaI, 3 mL of anisol and 4.92 mL (38.4 mmol) of trimethylsilylchloride were added to the solution of 7.0 g (12.8 mmol) of tert. butyl (S)-3-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-4-oxo-butanoate in 375 mL acetonitrile. The reaction mixture was stirred for 90 min at 40° C., combined with another 5.75 g (38.4 mmol) of NaI and 4.92 mL (38.4 mmol) of trimethylsilylchloride and stirred for a further 2 h at 40° C. The mixture was evaporated down i. vac. and further reacted as the crude product.

reactant | NaI | 38.4 mmol, 5.75 g | [Na+].[I-]
reactant | anisol | 3 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | trimethylsilylchloride | 38.4 mmol, 4.92 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | tert. butyl (S)-3-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-4-oxo-butanoate | 12.8 mmol, 7.0 g | NC1=C(C=C(C[C@@H](CC(=O)OC(C)(C)C)C(=O)N2CCC(CC2)N2CCN(CC2)C)C=C1C(F)(F)F)Cl | C26H38ClF3N4O3
reactant | NaI | 38.4 mmol, 5.75 g | [Na+].[I-]
reactant | trimethylsilylchloride | 38.4 mmol, 4.92 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | acetonitrile | 375 mL | C(C)#N | C2H3N
product | (S)-3-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-4-oxo-butanoic acid | NC1=C(C=C(C[C@@H](CC(=O)O)C(=O)N2CCC(CC2)N2CCN(CC2)C)C=C1C(F)(F)F)Cl | C22H30ClF3N4O3
